US07384934B2
(S)-10-[3-(4-Methoxy-butyl)-4-methyl-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene
Into a room temperature, stirred solution of (S)-10-[3-(4-methoxybutyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene (0.031 g, 0.08 mmol), and formaldehyde solution (0.082 mL, 0.10 mmol, 37% in H2O) in dichloroethane (0.5 mL) was added NaHB(OAc)3 (0.026 g, 0.12 mmol) and stirred overnight. Dilute the solution with H2O (20 mL), 1.0 N NaOH (1 mL) and extract with CH2Cl2 (3×40 mL). Dry the combined organic layers over Na2SO4, and filter. Concentrate the mixture under reduced pressure and purify by silica gel chromatography eluting with 10% (33% 2 M NH3 in MeOH/64% EtOH)/CH2Cl2. Combine the purified fractions, concentrate under reduced pressure, and place under vacuum to give the title compound: orange solid (0.014 g), mass spectrum (m/e):399.3 (M+H).

reactant | (S)-10-[3-(4-methoxybutyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 0.08 mmol, 0.031 g | COCCCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2 | C21H28N4OS
reactant | formaldehyde | 0.10 mmol, 0.082 mL | C=O | CH2O
solvent | dichloroethane | 0.5 mL | ClC(C)Cl | C2H4Cl2
solvent | H2O | 20 mL | O | H2O
solvent | NaOH | 1.0 N, 1 mL | [OH-].[Na+]
product | (S)-10-[3-(4-Methoxy-butyl)-4-methyl-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | COCCCC[C@H]1CN(CCN1C)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2 | C22H30N4OS
